US07875645B2
2-(2-Bromo-6-methyl-benzyl)-4,5-dihydro-1H-imidazole was prepared from (2-bromo-6-methylphenyl)-acetonitrile and ethylene diamine in analogy to Example 19 b): off-white solid;

reactant | (2-bromo-6-methylphenyl)-acetonitrile | BrC1=C(C(=CC=C1)C)CC#N | C9H8BrN
reactant | ethylene diamine | C(CN)N | C2H8N2
product | 2-(2-Bromo-6-methyl-benzyl)-4,5-dihydro-1H-imidazole | BrC1=C(CC=2NCCN2)C(=CC=C1)C | C11H13BrN2
